US07820823B2
(3S,4R) and (3R,4S)-1-Benzyl-4-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-pyrrolidine-3-carboxylic Acid Ethyl Ester
To a solution of 4.5 g of 3-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-acrylic acid ethyl ester (13.1 mmol) and 7.68 g N-[(pentyloxy)methyl]-N-[(trimethylsilyl)-methyl]-benzenemethanamine (26.2 mmol) in 50 ml dichloromethane was added 10 μL. trifluoroacetic acid. The reaction was monitored by TLC. The reaction was complete after 10 min. The mixture was diluted with dichloromethane, washed with sat. sodium bicarbonate solution and brine, dried over Mg sulfate, filtered and the filtrate evaporated. The residue was purified by filtration over a short silica column, using a 7/3 hexane/ethyl acetate mixture as eluent.

reactant | 3-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-acrylic acid ethyl ester | 13.1 mmol, 4.5 g | C(C)OC(C=CC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)=O | C19H18FNO4
reactant | N-[(pentyloxy)methyl]-N-[(trimethylsilyl)-methyl]-benzenemethanamine | 26.2 mmol, 7.68 g | C(CCCC)OCN(CC1=CC=CC=C1)C[Si](C)(C)C | C17H31NOSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (3R,4S)-1-Benzyl-4-(4-benzyloxycarbonylamino-2-fluoro-phenyl)-pyrrolidine-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)[C@H]1CN(C[C@@H]1C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F)CC1=CC=CC=C1 | C28H29FN2O4
